US04929621
1.4. 4-(10,11-Dihydro-3-fluoro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-[2-(N-methylamino)ethyl]piperidine
A mixture of 4-(10,11-dihydro-3-fluoro-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine (5 g; 0.017 mol) and 2-[N-methyl-N-(triphenylmethyl)amino]ethyl iodide (7.3 g; 0.017 mol) in 30 ml of methyl isobutyl ketone (MiBk) is heated to the refluxing temperature. Potassium carbonate (4.7 g; 0.034 mol) is added in a single portion at this temperature, and the mixture is then heated to the refluxing temperature under an argon atmosphere for 10 h. The mixture is cooled, filtered and evaporated to dryness. The residual oil is then taken up with methylene chloride and the mixture is washed with water and with saline, dried over magnesium sulphate and then evaporated to dryness. 100 ml of 1N hydrochloric acid are added to the oil obtained, and the mixture is then stirred for 5 hours at room temperature. The tritylmethanol is separated off by filtration, the mother liquors are neutralized with 2N aqueous sodium hydroxide, the product is extracted using methylene chloride and the extract is dried over magnesium sulphate and evaporated. The oil obtained is used without further purification in the following stage.

reactant | 4-(10,11-dihydro-3-fluoro-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | 0.017 mol, 5 g | FC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=C3CCNCC3)C1 | C20H20FN
reactant | 2-[N-methyl-N-(triphenylmethyl)amino]ethyl iodide | 0.017 mol, 7.3 g | CN(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCI | C22H22IN
reactant | Potassium carbonate | 0.034 mol, 4.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutyl ketone | 30 ml | C(C(C)C)C(=O)C | C6H12O
product | 4-(10,11-Dihydro-3-fluoro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-[2-(N-methylamino)ethyl]piperidine | FC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=C3CCN(CC3)CCNC)C1 | C23H27FN2
